US05998433
b) Synthesis of N,N-dimethyl-[6-(2-fluorenecarbonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride
N,N-Dimethyl-[6-(2-fluorenecarbonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine 0.432 g was dissolved in 2 ml of methanol; hydrogen chloride in ethyl acetate was added in excess, followed by stirring. This mixture was concentrated, and recrystallized from methanol-diethyl ether to yield the desired product.

reactant | N,N-Dimethyl-[6-(2-fluorenecarbonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine | 0.432 g | CN(C)CC1=CC2=C(CN(CC2)C(=O)C2=CC=3CC4=CC=CC=C4C3C=C2)O1 | C24H24N2O2
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N,N-dimethyl-[6-(2-fluorenecarbonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride | Cl.CN(C)CC1=CC2=C(CN(CC2)C(=O)C2=CC=3CC4=CC=CC=C4C3C=C2)O1 | InChI=1S/C24H24N2O2.ClH/c1-25(2)14-20-13-17-9-10-26(15-23(17)28-20)24(27)18-7-8-22-19(12-18)11-16-5-3-4-6-21(16)22;/h3-8,12-13H,9-11,14-15H2,1-2H3;1H
